US04691052
Preparation 2,2,-Dichloro-3-(2-methylpropenyl)-cyclobutanone. (Product A)
The first step of Example 1 was repeated employing as the reactants, 5.6 ml trichloroacetyl chloride (50 mmol), 5 g (60 mmol) 4-methyl-1,3-pentadiene, 4.6 ml (50 mmol) phosphoryl chloride, 5 g (78 mmol) zinc and 500 ml ether. The yield was 6.8 g. or 71% theoretical, boiling at 65°-67° C. at 0.2 torr.

reactant | trichloroacetyl chloride | 50 mmol, 5.6 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | 4-methyl-1,3-pentadiene | 60 mmol, 5 g | CC(=CC=C)C | C6H10
reactant | phosphoryl chloride | 50 mmol, 4.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | zinc | 78 mmol, 5 g | [Zn] | Zn
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2,2,-Dichloro-3-(2-methylpropenyl)-cyclobutanone | ClC1(C(CC1C=C(C)C)=O)Cl | C8H10Cl2O
